US07951810B2
Step d: {(3aR,4R,6R,6aR)-6-[6-(2-methoxyethyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methanol
To a solution of 9-[(3aR,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-(2-methoxyethyl)-9H-purine (70 mg, 0.15 mmol) in THF/pyridine (1.5 mL, 1:1) was added hydrofluoric acid in pyridine (15 drops). The reaction was stirred overnight, quenched with saturated aq NaHCO3, extracted with EtOAc, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 50% DCM/EtOAc to furnish 37 mg (70%) of the title compound.

reactant | 9-[(3aR,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-(2-methoxyethyl)-9H-purine | 0.15 mmol, 70 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)CCOC | C22H36N4O5Si
reactant | hydrofluoric acid | F | FH
solvent | THF pyridine | 1.5 mL | C1CCOC1.N1=CC=CC=C1
catalyst | pyridine | 15 drops | N1=CC=CC=C1 | C5H5N
product | {(3aR,4R,6R,6aR)-6-[6-(2-methoxyethyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methanol | 37 mg, 70% | COCCC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C16H22N4O5
